US06576764B2
In a 50 mL three-necked flask equipped with a mechanical stirrer, a condenser and a thermometer 1.8 g of 1-(3-hydroxymethyl pyridyl-2)-4-methyl-2-phenyl-piperazine are added to ˜5 mL of concentrated sulfuric acid that was previously cooled to 10° C. The obtained solution is mixed at room temperature for 4 hours, then heated for one hour to about 50° to 600° C. After cooling, the reaction mass is added to 25 g of ice under mixing and neutralized with a concentrated ammonia solution or sodium hydroxide. The formed precipitate is separated by filtration. The mother liquor is evaporated to dryness under vacuum. Both the formed precipitate and the residue from the mother liquor are each suspended in˜20 mL of isopropanol. The combined isopropanol extracts are evaporated to dryness. An oil is obtained which contains 1.35 g of mirtazapine (yield 80%).

reactant | 1-(3-hydroxymethyl pyridyl-2)-4-methyl-2-phenyl-piperazine | 1.8 g | CN1CCN(C(C1)C2=CC=CC=C2)C3=C(C=CC=N3)CO | C17H21N3O
reactant | sulfuric acid | ˜5 mL | S(O)(O)(=O)=O | H2O4S
reactant | ammonia | N | H3N
reactant | sodium hydroxide | [OH-].[Na+]
product | mirtazapine | 1.35 g, yield 80% | CN1CCN2C3=C(C=CC=N3)CC=4C=CC=CC4C2C1 | C17H19N3
